US05098900
4-Bromo-5-(4-ethoxybenzylamino)-2-i-propyl-3(2H)pyridazinone (Compound No. 164)
A mixture of 0.38 g of 4-ethoxybenzylamine hydrochloride, 0.4 g of 4,5-dibromo-2-iso-propyl-3(2H)pyridazinone, 0.34 g of potassium carbonate, 6 ml of 1,4-dioxane and 18 ml of water, was heated at 90° C. under stirring for 10 hours. The sovent was distilled off under reduced pressure, and water was added to the residue thereby obtained, and the mixture was extracted with ethyl acetate. The extract was washed with diluted hydrochloric acid and a saturated sodium chloride aqueous solution, and dried over sodium sulfate, and then the solvent was distilled off. The product was crystallized from ether to obtain 220 mg of the above identified compound having a melting point of from 151° to 152.5° C. as pale yellow crystals.

reactant | 4-ethoxybenzylamine hydrochloride | 0.38 g | Cl.C(C)OC1=CC=C(CN)C=C1
reactant | 4,5-dibromo-2-iso-propyl-3(2H)pyridazinone | 0.4 g | BrC=1C(N(N=CC1Br)C(C)C)=O | C7H8Br2N2O
reactant | potassium carbonate | 0.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | water | 18 ml | O | H2O
product | 4-Bromo-5-(4-ethoxybenzylamino)-2-i-propyl-3(2H)pyridazinone | BrC=1C(N(N=CC1NCC1=CC=C(C=C1)OCC)C(C)C)=O | C16H20BrN3O2
